US05498609
To a solution of 7-chloro-5-(2-phthalimidoethyl)-1-[6-(2-chloro-benzoylamino)nicotinoyl]-2,3,4,5-tetrahydro-1H-benzazepine (1.8 g) in ethanol (50 ml) is added hydrazine monohydrate (0.19 ml), and the mixture is refluxed for 4 hours. The mixture is cooled, and thereto is added water. The mixture is extracted with dichloromethane, and the extract is washed with water, dried over magnesium sulfate, and evaporated under reduced pressure to remove the solvent. The residue is purified by silica gel column chromatography to give 7-chloro-5-(2-aminoethyl)-1-[6-(2-chlorobenzoylamino)nicotinoyl]-2,3,4,5-tetrahydro-1H-benzazepine (0.5 g) as colorless amorphous.

reactant | 7-chloro-5-(2-phthalimidoethyl)-1-[6-(2-chloro-benzoylamino)nicotinoyl]-2,3,4,5-tetrahydro-1H-benzazepine | 1.8 g | ClC=1C=CC2=C(C(CCCN2C(C2=CN=C(C=C2)NC(C2=C(C=CC=C2)Cl)=O)=O)CCN2C(C=3C(C2=O)=CC=CC3)=O)C1 | C33H26Cl2N4O4
reactant | hydrazine monohydrate | 0.19 ml | O.NN
reactant | water | O | H2O
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 7-chloro-5-(2-aminoethyl)-1-[6-(2-chlorobenzoylamino)nicotinoyl]-2,3,4,5-tetrahydro-1H-benzazepine | 0.5 g | ClC=1C=CC2=C(C(CCCN2C(C2=CN=C(C=C2)NC(C2=C(C=CC=C2)Cl)=O)=O)CCN)C1 | C25H24Cl2N4O2
